US07759381B2
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-fluoromethyl-4-trifluoromethylsulfinylpyrazole (Compound No 10)
A 30 wt % aqueous solution of hydrogen peroxide (50 μL) was added to a trifluoroacetic acid solution of 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-fluoromethyl-4-trifluoromethylthiopyrazole (205 mg) prepared as described in Example 30. The reaction mixture was stirred for 6 h whereupon solvent was evaporated under reduced pressure to give a residue that was purified by chromatography (SiO2, heptane/DCM) to afford the title compound as a white solid (66.5 mg, 32%). MS (ES): M/Z [M−H] 452. 1H NMR: (400 MHz, DMSO-d6): 5.48-5.75 (m, 2H) and 8.41 (s, 2H). 19F NMR (376 MHz, DMSO-d6): −62.05 (s, 3F), −73.68 (d, 3F) and −82.41 (m, 1F).

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-fluoromethyl-4-trifluoromethylthiopyrazole | 205 mg | C(#N)C1=NN(C(=C1SC(F)(F)F)CF)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H4Cl2F7N3S
solvent | hydrogen peroxide | 50 μL | OO | H2O2
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-fluoromethyl-4-trifluoromethylsulfinylpyrazole | 66.5 mg, 32% | C(#N)C1=NN(C(=C1S(=O)C(F)(F)F)CF)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H4Cl2F7N3OS
